US08957080B2
Into a 50 mL round-bottom flask, was placed a solution of 3-[4-(2-fluorophenoxy)-phenyl]-1-[(3R)-piperidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (100 mg, 0.25 mmol, 1.00 equiv) in dichloromethane (10 mL), 1-[(1H-imidazol-1-yl)carbonyl]-1H-imidazole (60 mg, 0.37 mmol, 1.50 equiv), and 2-cyanoacetic acid (110 mg, 1.29 mmol, 5.23 equiv). The resulting solution was stirred for 60 min at room temperature and then concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (100:1) to give 0.06 g (51%) of 3-[(3R)-3-[4-amino-3-[4-(2-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile as a light yellow solid.

reactant | 3-[4-(2-fluorophenoxy)-phenyl]-1-[(3R)-piperidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.25 mmol, 100 mg, 1.00 equiv | FC1=C(OC2=CC=C(C=C2)C2=NN(C3=NC=NC(=C32)N)[C@H]3CNCCC3)C=CC=C1 | C22H21FN6O
reactant | 1-[(1H-imidazol-1-yl)carbonyl]-1H-imidazole | 0.37 mmol, 60 mg, 1.50 equiv | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | 2-cyanoacetic acid | 1.29 mmol, 110 mg, 5.23 equiv | C(#N)CC(=O)O | C3H3NO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-[(3R)-3-[4-amino-3-[4-(2-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile | 0.06 g, 51% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C=CC=C2)F)[C@H]2CN(CCC2)C(CC#N)=O | C25H22FN7O2
